US06812227B2
2-{{[4-(2-Butynyloxy)phenyl]sulfonyl}[4-(4-methyl-1-piperazinyl)-2-butynyl]amino}-N-hydroxy-3-methylbutanamide
According to the procedures of Examples 11 and 9 methyl2-{{[4-(2-butynyloxy)phenyl]sulfonyl}-4-(4-methyl-1-piperazinyl)-2-butynyl]amino}-3-methylbutanoate provided the hydroxamic acid 2-{{[4-(2-butynyloxy)phenyl]sulfonyl}[4-(4-methyl-1-piperazinyl)-2-butynyl]amino}-N-hydroxy-3-methylbutanamide as a white solid. This was converted into 2-{{[4-(2-butynyloxy)phenyl]sulfonyl}[4-(4-methyl-1-piperazinyl)-2-butynyl]amino}-N-hydroxy-3-methylbutanamide hydrochloride with ethereal HCl solution to give the product as a brown powder. Electrospray Mass Spec 491.3 (M+H)+

reactant | 2-{{[4-(2-butynyloxy)phenyl]sulfonyl}[4-(4-methyl-1-piperazinyl)-2-butynyl]amino}-N-hydroxy-3-methylbutanamide hydrochloride | Cl.C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)N(C(C(=O)NO)C(C)C)CC#CCN1CCN(CC1)C
reactant | HCl | Cl | ClH
product | 2-{{[4-(2-Butynyloxy)phenyl]sulfonyl}[4-(4-methyl-1-piperazinyl)-2-butynyl]amino}-N-hydroxy-3-methylbutanamide | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)N(C(C(=O)NO)C(C)C)CC#CCN1CCN(CC1)C | C24H34N4O5S
